US09023847B2
80. 5-Methyl-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylicacid ((S)-2-hydroxy-1-phenyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using (S)-2-phenylglycinol instead of 1-BOC-3-aminopyrrolidine and 5-Methyl-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid of 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid. LCMS (ESI) 393 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 10.26 (1H, s) 8.12 (1H, d, J=8.05 Hz) 8.01 (1H, d, J=5.42 Hz) 7.31-7.38 (2H, m) 7.25-7.31 (4H, m) 7.17-7.24 (1H, m) 6.79 (1H, d, J=5.47 Hz) 6.39 (1H, dd, J=3.54, 1.98 Hz) 5.07 (1H, td, J=7.71, 5.76 Hz) 4.90 (1H, t, J=5.76 Hz) 3.56-3.74 (2H, m, J=11.13, 11.13, 10.97, 5.76 Hz) 2.52 (3H, d, J=1.07 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | (S)-2-phenylglycinol | C1(=CC=CC=C1)[C@H](N)CO | C8H11NO
reactant | 5-Methyl-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid | CC1=CC(=C(S1)C(=O)O)NC1=C2C(=NC=C1)NC=C2 | C13H11N3O2S
reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid | N1C=CC=2C1=NC=CC2NC2=C(SC=C2)C(=O)O | C12H9N3O2S
product | 5-Methyl-3-(1H-pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylicacid ((S)-2-hydroxy-1-phenyl-ethyl)-amide | OC[C@H](C1=CC=CC=C1)NC(=O)C=1SC(=CC1NC1=C2C(=NC=C1)NC=C2)C | C21H20N4O2S
